US03953506
Preparation of 1-Methoxy-3-(1,2,3,4-tetrahydro-1-naphthyl)urea ##SPC14##
To an ice cold, stirred mixture of 6.7 grams (0.080 mole) of methoxyamine hydrochloride in 80 ml. of methylene chloride is added a solution of 8.1 grams (0.080 mole) of triethylamine in 20 ml. of methylene chloride. The mixture is stirred at 15°C. for 15 minutes, and is then allowed to warm to 15°C. to 25°C. while a solution of 6.94 grams (0.04 mole) of 1,2,3,4-tetrahydro-1-naphthyl isocyanate in 25 ml. of methylene chloride is added dropwise. The mixture is stirred for 30 minutes at room temperature and then filtered. The filtrate is washed with water, dried sodium sulfate, and the solvent evaporated at reduced pressure to give a solid. Recrystallization of the solid from acetone/hexane gives 6.75 grams of the product, melting point 122°C. to 125°C. Recrystallization of the product from acetone/hexane gives the analytical sample, melting point 123.5°C. to 125°C. Analysis Calculated for C12H16N2O2 : C, 65.43; H, 7.32; N, 12.72. Found: C, 65.32; H, 7.33; N, 12.64.

reactant | methoxyamine hydrochloride | 0.080 mole, 6.7 grams | Cl.CON
reactant | triethylamine | 0.080 mole, 8.1 grams | C(C)N(CC)CC | C6H15N
reactant | 1,2,3,4-tetrahydro-1-naphthyl isocyanate | 0.04 mole, 6.94 grams | C1(CCCC2=CC=CC=C12)N=C=O | C11H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Methoxy-3-(1,2,3,4-tetrahydro-1-naphthyl)urea | 6.75 grams | CONC(=O)NC1CCCC2=CC=CC=C12 | C12H16N2O2
